US07888362B2
5.05 g (19.8 mmol) of 1-Benzo[b]thiophen-4-yl-piperazine hydrochloride was added to an aqueous solution of sodium hydroxide, and the mixture was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in 50 ml of ethanol and ethyl acrylate (2.44 ml, 21.8 mmol) was added thereto, then the reaction mixture was refluxed for 4 hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. Isopropyl ether was added to the residue to filter out insoluble matters. The insoluble matters were washed with isopropyl ether and dried to obtain ethyl 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propionate (5.26 g) as white powder.

reactant | 1-Benzo[b]thiophen-4-yl-piperazine hydrochloride | 19.8 mmol, 5.05 g | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCNCC2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acrylate | 21.8 mmol, 2.44 ml | C(C=C)(=O)OCC | C5H8O2
product | ethyl 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propionate | 5.26 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCC(=O)OCC | C17H22N2O2S
